Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet / Demerol
 
Attending: ___.
 
Chief Complaint:
obstruction 
 
Major Surgical or Invasive Procedure:
Laparoscopic ileostomy takedown with ileorectal anastomosis, 
diverting loop ileostomy and parastomal hernia repair.

 
History of Present Illness:
Per Colorectal Surgery Consult Note

HPI: ___ hx of ileocolonic and ___ chrons s/p sub-total
colectomy and end ileostomy in ___ stopped in late ___ biologic
therapy due to upper respiratory side effects now presents with
obstructive symptoms and para-stomal hernia. Patient reports 
that
was doing well with slightly increased rectal mucus discharge
since coming off the vedo until ___ when developed right 
lower
quadrant firmness around ostomy, decreased output, and 
increasing
bloating and nausea. These have increased over the last two 
days.
Denies any fevers or chills. Has not had ostomy output since 
this
morning. No vomiting but nausea. She describes similar symptoms
once previously with hardness around ostomy that self-resolved.
She has had a peristomal hernia as long as ___ years ago that was
seen on MRI. Since coming off vedo some increased bloody rectal
discharge and urgency but no blood ostomy output, weight loss, 
or
change in ostomy output. 

 
Past Medical History:
PMH:
- Crohn's colitis
- Polyarthropathy - hands, elbows, knees and ankles.
- Hypertension
- GERD
- Gastroparesis
- R iritis/episcleritis

PSH:
- 1L lower GI bleed from sigmoid ulcer ___
- Cholecystectomy ___
- C-section x2
- Ectopic pregnancy
- Total abdominal hysterectomy and unilateral (L) 
salpingo-oophorectomy ___
 
Social History:
___
Family History:
No family history of IBD.
 
Physical Exam:
d/c physical exam

General: Doing well, tolerating a regular diet, pain controlled, 
ambulating
VSS
Neuro: A&OX3
Cardio/Pulm: no chest pain or shortness of breath
Abd: laparoscopic incision clean dry and intact, abdomen soft 
and nondistended
 
Pertinent Results:
___ 06:49AM BLOOD WBC-12.0* RBC-4.12 Hgb-12.3 Hct-37.5 
MCV-91 MCH-29.9 MCHC-32.8 RDW-12.5 RDWSD-41.4 Plt ___
___ 07:00AM BLOOD WBC-9.4 RBC-3.94 Hgb-11.8 Hct-36.0 MCV-91 
MCH-29.9 MCHC-32.8 RDW-12.3 RDWSD-41.1 Plt ___
___ 07:33AM BLOOD WBC-9.2 RBC-4.03 Hgb-11.8 Hct-36.6 MCV-91 
MCH-29.3 MCHC-32.2 RDW-12.3 RDWSD-41.1 Plt ___
___ 07:10AM BLOOD WBC-9.2 RBC-3.86* Hgb-11.5 Hct-35.3 
MCV-92 MCH-29.8 MCHC-32.6 RDW-12.5 RDWSD-41.8 Plt ___
___ 08:15AM BLOOD WBC-8.2 RBC-3.88* Hgb-11.5 Hct-35.5 
MCV-92 MCH-29.6 MCHC-32.4 RDW-12.2 RDWSD-41.1 Plt ___
___ 07:29AM BLOOD WBC-7.0 RBC-3.78* Hgb-11.3 Hct-35.5 
MCV-94 MCH-29.9 MCHC-31.8* RDW-12.4 RDWSD-42.7 Plt ___
___ 07:13AM BLOOD WBC-5.6 RBC-4.23 Hgb-12.7 Hct-39.6 MCV-94 
MCH-30.0 MCHC-32.1 RDW-12.2 RDWSD-42.2 Plt ___
___ 07:30AM BLOOD WBC-5.2 RBC-4.67 Hgb-13.9 Hct-42.9 MCV-92 
MCH-29.8 MCHC-32.4 RDW-12.3 RDWSD-41.1 Plt ___
___ 07:26AM BLOOD WBC-8.8 RBC-4.69 Hgb-14.2 Hct-42.9 MCV-92 
MCH-30.3 MCHC-33.1 RDW-12.5 RDWSD-41.1 Plt ___
___ 11:50AM BLOOD WBC-13.3* RBC-5.00 Hgb-14.9 Hct-45.2* 
MCV-90 MCH-29.8 MCHC-33.0 RDW-12.3 RDWSD-40.5 Plt ___
___ 06:49AM BLOOD Glucose-111* UreaN-7 Creat-0.7 Na-140 
K-4.1 Cl-99 HCO3-26 AnGap-15
___ 07:00AM BLOOD Glucose-125* UreaN-6 Creat-0.6 Na-138 
K-4.1 Cl-99 HCO3-27 AnGap-12
___ 07:33AM BLOOD Glucose-126* UreaN-6 Creat-0.6 Na-137 
K-4.2 Cl-97 HCO3-29 AnGap-11
___ 07:10AM BLOOD Glucose-117* UreaN-8 Creat-0.6 Na-142 
K-3.8 Cl-100 HCO3-29 AnGap-13
___ 07:30AM BLOOD Glucose-104* UreaN-14 Creat-0.8 Na-140 
K-3.8 Cl-98 HCO3-28 AnGap-14
___ 07:29AM BLOOD Glucose-127* UreaN-17 Creat-0.8 Na-139 
K-4.1 Cl-103 HCO3-27 AnGap-9*
___ 07:13AM BLOOD Glucose-119* UreaN-15 Creat-0.9 Na-140 
K-4.9 Cl-105 HCO3-26 AnGap-9*
___ 07:30AM BLOOD Glucose-135* UreaN-11 Creat-0.8 Na-141 
K-4.7 Cl-105 HCO3-26 AnGap-10
___ 07:26AM BLOOD Glucose-139* UreaN-12 Creat-1.0 Na-140 
K-4.5 Cl-104 HCO3-25 AnGap-11
___ 06:49AM BLOOD Calcium-8.9 Phos-4.4 Mg-2.0
___ 07:00AM BLOOD Calcium-8.6 Phos-4.1 Mg-2.1
___ 07:33AM BLOOD Calcium-8.6 Phos-3.8 Mg-1.8
___ 07:10AM BLOOD Calcium-8.3* Phos-3.3 Mg-2.0
___ 07:30AM BLOOD Calcium-8.8 Phos-3.0 Mg-2.0
___ 07:29AM BLOOD Calcium-8.0* Phos-2.2* Mg-2.2
___ 08:21PM BLOOD Mg-1.7
___ 07:30AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.0
___ 07:26AM BLOOD Calcium-9.1 Phos-4.4 Mg-2.0

 CT ABD & PELVIS WITH CONTRAST Study Date of ___ 10:51 AM 

IMPRESSION: 
  
  
1. Rim-enhancing, hypodense, parastomal collection, measuring 
6.3 x 5.5 x 6.0 
cm.  This collection is most consistent with a postoperative 
seroma, however, 
superimposed infection is possible.  If desired, this collection 
is amenable 
to aspiration under ultrasound. 
2. Additional 3 cm thin rim-enhancing, hypodense collection in 
the central 
pelvis likely represents postoperative seroma and again 
superimposed infection 
is possible. 
3. Ileo-colonic anastomosis appears intact. 
4. Edema of the distal ileum is likely due to recent obstruction 
and surgery. 

 
Brief Hospital Course:
Mrs. ___ was admitted with a bowel obstruction related to a 
parastomal hernia which did not resolve with conservative 
management and she was taken to the operating room with Dr. 
___ on ___. Please see operative report for surgical 
details. She was transferred back to the inpatient unit 
postoperatively. The nasogastric tube was remove. She then had 
intermitted return of bowel function, she would tolerate clears 
and then have additional nausea. A nasogastric tube was never 
replaced. On ___ she had demonstrated bowel function and 
tolerated a regular diet. All medications were by mouth. She was 
discharged home ___. She was supported by the nursing staff 
and ostomy team during her admission. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. Calcium Carbonate 500 mg PO QID:PRN reflux 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
do not take more than 3000mg of Tylenol in 24 hours or drink 
alcohol while taking 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*45 Tablet Refills:*0 
2.  Enoxaparin Sodium 40 mg SC DAILY 
please take for 22 more days 
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous once a day Disp 
#*22 Syringe Refills:*0 
3.  LOPERamide 2 mg PO BID 
RX *loperamide 2 mg 1 tablet by mouth twice a day Disp #*60 
Tablet Refills:*1 
4.  Psyllium Wafer 1 WAF PO BID 
RX *psyllium  1 wafer by mouth twice a day Disp #*1 Box 
Refills:*1 
5.  Calcium Carbonate 500 mg PO QID:PRN reflux  
6.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Crohn's disease, parastomal hernia with obstruction.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ were admitted to the hospital after a with a bowel 
obstruction related to a parastomal hernia. Unfortunately, this 
did not resolve with conservative measures and ___ required 
surgery to fix this issue. Dr ___ your prior 
ileostomy however, he was unable to reattach your bowel and had 
to make a new ileostomy to allow this area to heal which will be 
reversed in the future. ___ have had a long post-operative 
recover however, ___ are now ready to return home. Samples of 
tissue were taken and this tissue has been sent to the pathology 
department for analysis. ___ will receive these pathology 
results at your follow-up appointment. If there is an urgent 
need for the surgeon to contact ___ regarding these results they 
will contact ___ before this time. ___ have tolerated a regular 
diet, are passing gas and your pain is controlled with pain 
medications by mouth. ___ may return home to finish your 
recovery.

___ will be discharged home on Lovenox injections to prevent 
blood clots after surgery. ___ will take this for 30 days after 
your surgery date. This will be given once daily. Please follow 
all nursing teaching instruction given by the nursing staff. 
Please monitor for any signs of bleeding: fast heart rate, 
bloody bowel movements, abdominal pain, bruising, feeling faint 
or weak. If ___ have any of these symptoms please call our 
office for advice or seek medical attention if there is an 
emergency. Avoid any contact activity while taking Lovenox. 
Please take extra caution to avoid falling.

Please monitor your bowel function closely. 
___ have an ileostomy. The most common complication from an 
ileostomy placement is dehydration. The output from the stoma is 
stool from the small intestine and the water content is very 
high. The stool is no longer passing through the large intestine 
which is where the water from the stool is reabsorbed into the 
body and the stool becomes formed. ___ must measure your 
ileostomy output for the next few weeks. The output from the 
stoma should not be more than 1200cc or less than 500cc. If ___ 
find that your output has become too much or too little, please 
call the office for advice. The office nurse or nurse 
practitioner can recommend medications to increase or slow the 
ileostomy output. Keep yourself well hydrated, if ___ notice 
your ileostomy output increasing, take in more electrolyte drink 
such as Gatorade. Please monitor yourself for signs and symptoms 
of dehydration including: dizziness (especially upon standing), 
weakness, dry mouth, headache, or fatigue. If ___ notice these 
symptoms please call the office or return to the emergency room 
for evaluation if these symptoms are severe. ___ may eat a 
regular diet with your new ileostomy. However it is a good idea 
to avoid fatty or spicy foods and follow diet suggestions made 
to ___ by the ostomy nurses.
___ monitor the appearance of the ostomy and stoma and care 
for it as instructed by the wound/ostomy nurses. ___ stoma 
(intestine that protrudes outside of your abdomen) should be 
beefy red or pink, it may ooze small amounts of blood at times 
when touched and this should subside with time. The skin around 
the ostomy site should be kept clean and intact. Monitor the 
skin around the stoma for bulging or signs of infection listed 
above. Please care for the ostomy as ___ have been instructed by 
the wound/ostomy nurses. ___ will be able to make an appointment 
with the ostomy nurse in the clinic 7 days after surgery. ___ 
will have a visiting nurse at home for the next few weeks 
helping to monitor your ostomy until ___ are comfortable caring 
for it on your own.

If ___ have any of the following symptoms please call the office 
for advice ___:
fever greater than 101.5
increasing abdominal distension
increasing abdominal pain
nausea/vomiting
inability to tolerate food or liquids
prolonged loose stool
extended constipation
inability to urinate

Incisions:
___ have ___ laparoscopic surgical incisions on your abdomen 
which are closed with internal sutures. These are healing well 
however it is important that ___ monitor these areas for signs 
and symptoms of infection including: increasing redness of the 
incision lines, white/green/yellow/malodorous drainage, 
increased pain at the incision, increased warmth of the skin at 
the incision, or swelling of the area.
___ may shower; pat the incisions dry with a towel, do not rub. 
The small incisions may be left open to the air. If closed with 
steri-strips (little white adhesive strips), these will fall off 
over time, please do not remove them. Please no baths or 
swimming until cleared by the surgical team.
Pain
It is expected that ___ will have pain after surgery and this 
pain will gradually improved over the first week or so ___ are 
home. ___ will especially have pain when changing positions and 
with movement. ___ should continue to take 2 Extra Strength 
Tylenol (___) for pain every 8 hours around the clock for 7 
days. If these medications are not controlling your pain to a 
point where ___ can ambulate and preform minor tasks, ___ should 
take a dose of the narcotic pain medication Oxycodone. Please 
take this only if needed for pain. Do not take with any other 
sedating medications or alcohol. Do not drive a car if taking 
narcotic pain medications.

Activity
___ may feel weak or "washed out" for up to 6 weeks after 
surgery. No heavy lifting greater than a gallon of milk for 3 
weeks. ___ may climb stairs. ___ may go outside and walk, but 
avoid traveling long distances until ___ speak with your 
surgical team at your first follow-up visit. Your surgical team 
will clear ___ for heavier exercise and activity as the observe 
your progress at your follow-up appointment. ___ should only 
drive a car on your own if ___ are off narcotic pain medications 
and feel as if your reaction time is back to normal so ___ can 
react appropriately while driving.
Thank ___ for allowing us to participate in your care! Our hope 
is that ___ will have a quick return to your life and usual 
activities.

 
Followup Instructions:
___